US09260429B2
Method for the preparation of compound 7[[2-(7-chloro-2-methyl-3,4-dihydro-1H-pyrido[3,4-b]indol-9(2H)-yl)-1-(6-methylpyridin-3-yl)ethanol]: (3-chlorophenyl)hydrazine is reacted with 4,4-dimethoxy-N-methylbutan-1-amine (put in the references for this) to generate 2-(6-chloro-1H-indol-3-yl)-N-methylethanamine, which upon treatment with formaldehyde, under standard Pictet Spingler reaction conditions (insert the reference for this) gives 7-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. The further reaction of this unsubstituted β-carboline with 2-methyl-5-(oxiran-2-yl)pyridine (carboline, aryl/heteroaryl oxide, NaH, DMF, 120° C.) gives the desired compound 2-(7-chloro-2-methyl-3,4-dihydro-1H-pyrido[3,4-b]indol-9(2H)-yl)-1-(6-methylpyridin-3-yl)ethanol, compound 7. After the successful synthesis of the compound, purification can be achieved using standard normal phase or reverse phase methods.

reactant | 2-(7-chloro-2-methyl-3,4-dihydro-1H-pyrido[3,4-b]indol-9(2H)-yl)-1-(6-methylpyridin-3-yl)ethanol | ClC1=CC=C2C3=C(N(C2=C1)CC(O)C=1C=NC(=CC1)C)CN(CC3)C | C20H22ClN3O
reactant | (3-chlorophenyl)hydrazine | ClC=1C=C(C=CC1)NN | C6H7ClN2
reactant | 4,4-dimethoxy-N-methylbutan-1-amine | COC(CCCNC)OC | C7H17NO2
reactant | 2-(6-chloro-1H-indol-3-yl)-N-methylethanamine | ClC1=CC=C2C(=CNC2=C1)CCNC | C11H13ClN2
reactant | formaldehyde | C=O | CH2O
product | 7-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | ClC1=CC=C2C3=C(NC2=C1)CN(CC3)C | C12H13ClN2
